US05756528
Step C: Preparation of N-Methyl-3,3-diphenylpropylamine
A solution of N-benzyl-N-methyl-3,3-diphenylpropylamine (1.03 g, 3.27 mmol) in methanol (35 ml) and aq. HCl (0.27 ml, of a 12.1M aq. solution, 3.3 mmol) was purged with argon and palladium hydroxide (405 mg) added. The flask was evacuated and shaken under an atmosphere of hydrogen (50 psi) for 18 hrs. The hydrogen was replaced by argon and the catalyst removed by filtration. The filtrate was treated with aq. NaOH (100 ml of a 1M solution) and extracted into Et2O. The organic extracts were dried (Na2SO4) and evaporated in vacuo to afford the title compound as an oil.

reactant | N-benzyl-N-methyl-3,3-diphenylpropylamine | 3.27 mmol, 1.03 g | C(C1=CC=CC=C1)N(C)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25N
solvent | methanol | 35 ml | CO | CH4O
solvent | HCl | Cl | ClH
catalyst | palladium hydroxide | 405 mg | [OH-].[Pd+2].[OH-]
product | N-Methyl-3,3-diphenylpropylamine | CNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19N
